datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10]([H])[C:20]([O:21]C)([O]CC)[O]C.[Cl-]>>[Cl-].[H][S:10][H].C[O+:21]=[C:20]([O]CC)[O]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(C)C([H])[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C([H])[O]1 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C(CC)[S]1 10=20;20,21=21"
"[OH:21][C:20]1(OCC)[OH+:10]C(C)C(C)C1O>>[OH:10]C(C)C(C)C([C:20](OCC)=[OH+:21])O 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)CCCCCC)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)[H].[O-:21]CC 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CC)C>>[H]N([C:20]1(OC(C(C([O:21]1)[H])CC)CC)[O-:10])C 21=20;20,10=10"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]C 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C([H])[O]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[O][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[OH:21][C:20]1([H])C([H])C(C)C([H])C(C)[OH+:10]1>>[OH:10]C(C)C([H])C(C)C([H])[C:20]([H])=[OH+:21] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])CCCCCC)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[NH:10]([H])C(C=CC=C1)=C1C(C)C([C:20]([H])=[O:21])[H]>>[O-:21][C:20]2([H])C(C(C)C3=C([NH+:10]2([H]))C=CC=C3)[H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)[H])CC)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])CC)CCCCCC 10=20;20,21=21"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC1=CC=CC=C1)C1=CC=CC=C1)[H]>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC1=CC=CC=C1)C1=CC=CC=C1)[H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CN([C:20]([O-:10])(O[H])[O:21]CCCCCC)[H]>>CN([C:20](=[O:10])O[H])[H].[O-:21]CCCCCC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C(CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(CC)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[O:20]=[C:21](OC)OC1=CC=CC=C1.[H][O:10][Li]>>[H][O+:10]([Li])[C:21]([O-:20])(OC)OC1=CC=CC=C1 10=21;21,20=20"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C([H])=C(C)C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])/C(C)=C([H])\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[Na][O+:21]([C:20]([O-:10])(OCCCCCC)OCC)C1=CC=CC=C1>>[Na][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OCCCCCC)OCC 10=20;20,21=21"
"[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
